US07205292B2
N-[(3R)-1-Benzyl-2-oxoazepan-3-yl]-4-(2-oxo-1,4-dihydroquinazolin-3(2H)-yl)piperidine-1-carboxamide
The title compound was prepared with (3R)-3-amino-1-benzylazepan-2-one and 4-(2-oxo-1,4-dihydroquinazolin-3(2H)-yl)piperidine-1-carbonyl chloride using a similar procedure to Example 16. MS 476.2645 (M+1).

reactant | (3R)-3-amino-1-benzylazepan-2-one | N[C@H]1C(N(CCCC1)CC1=CC=CC=C1)=O | C13H18N2O
reactant | 4-(2-oxo-1,4-dihydroquinazolin-3(2H)-yl)piperidine-1-carbonyl chloride | O=C1NC2=CC=CC=C2CN1C1CCN(CC1)C(=O)Cl | C14H16ClN3O2
product | N-[(3R)-1-Benzyl-2-oxoazepan-3-yl]-4-(2-oxo-1,4-dihydroquinazolin-3(2H)-yl)piperidine-1-carboxamide | C(C1=CC=CC=C1)N1C([C@@H](CCCC1)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C27H33N5O3
